//============================================================================
// Subcircuit Instance
// Xxx NN {NN} NAME [PAR=VAL] [PAR={EXPR}] [M=VAL] [TEMP=VAL] [DTEMP=VAL]
//    + [STATISTICAL=0|1] [(ANALOG|OSR|DIGITAL)] [NONOISE|NOISE=0]
//      [MODEL:] MNAME PIN: {pin=net}
//
//    + PARAM: {par=val} KEYWORD: {keywords} [STATISTICAL=0|1]
//
//      [MODEL:] MNAME NET: {net=pin}
//    + PARAM: {par=val} KEYWORD: {keywords} [STATISTICAL=0|1]
//============================================================================
X1 1 2 FOO A=1 B=1
X2 1 2 FOO A=1 B=1
X3 1 2 FOO A=1.0 B=1
X1 1 2 FOO A=1 B=1 M=2
x1 1 48 inv
x1 1 2 inv rval=6 rval2={rval1+1k}
x2 2 3 inv rval=4
X1 P1 P2 foo p1=1
X1 foo PARAM: p1=1 PIN: B=P2 A=P1
X1 a net1 inv ln=0.18u wn=2.0u lp=0.18u wp=4.0u
X2 net1 y inv ln=0.18u wn=2.0u lp=0.18u wp=4.0u
X1 in out1 inv2
X2 MODEL: inv2 PIN: a=in y=out2
X3 MODEL: inv2 NET: in=a out3=y
x1 1 0 r dtemp=10